US06252084B1
A mixture of 1.4 g (4.5 mmol) of 4-methoxy-alpha-oxo-1-(phenylmethyl)-1H-indole-3-acetamide and 213 mg (5.6 mmol) of sodium borohydride and 50 mL of ethanol was stirred for 20 hours, 213 mg (5.6 mmol), of sodium borohydride added and stirred an additional 20 hours and the mixture filtered and evaporated at reduced pressure. The residue was stirred with ethyl acetate and water and the insoluble material was filtered to give 600 mg (43%) of 4-methoxy-alpha-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide, mp, 179-182° C.

reactant | 4-methoxy-alpha-oxo-1-(phenylmethyl)-1H-indole-3-acetamide | 4.5 mmol, 1.4 g | COC1=C2C(=CN(C2=CC=C1)CC1=CC=CC=C1)C(C(=O)N)=O | C18H16N2O3
reactant | sodium borohydride | 5.6 mmol, 213 mg | [BH4-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-methoxy-alpha-hydroxy-1-(phenylmethyl)-1H-indole-3-acetamide | 600 mg, 43% | COC1=C2C(=CN(C2=CC=C1)CC1=CC=CC=C1)C(C(=O)N)O | C18H18N2O3
